US05648372
Synthesis of 1-(2,4-difluorophenyl)-1-(6-(3-methylthiazol-1-yl)-benzothiazol-2-yl)-2-(1H-1,2,4-triazol-1-yl)ethanol
1-(2,4-Difluorophenyl)-1-(6-thiocarbamoylbenzothiazol-2-yl)-2-(1H-1,2,4-triazol-1-yl)ethanol (219 mg) was dissolved in ethanol (2 ml), and sodium hydrogencarbonate (42 mg) and bromoacetone (46 μl) were added to the solution. The resultant mixture was heated at 60° C. for 3 hours. Ethyl acetate and water were added to the liquid reaction mixture to separate liquid layers. An organic layer was washed with saline and then dried, and the solvent was distilled out. The residue was subjected to column chromatography on silica gel (eluting solvent: chloroform:methanol=100:1), thereby obtaining the intended compound (114 mg). Melting point: 213°-215° C.

reactant | 1-(2,4-Difluorophenyl)-1-(6-thiocarbamoylbenzothiazol-2-yl)-2-(1H-1,2,4-triazol-1-yl)ethanol | 219 mg | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(O)C=1SC2=C(N1)C=CC(=C2)C(N)=S | C18H13F2N5OS2
reactant | sodium hydrogencarbonate | 42 mg | C(O)([O-])=O.[Na+]
reactant | bromoacetone | 46 μl | BrCC(C)=O | C3H5BrO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-(2,4-difluorophenyl)-1-(6-(3-methylthiazol-1-yl)-benzothiazol-2-yl)-2-(1H-1,2,4-triazol-1-yl)ethanol | 114 mg | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(O)C=1SC2=C(N1)C=CC(=C2)S2CN(C=C2)C | C21H19F2N5OS2
